US04743604
1.91 g of methyl 5-[3-[[(R)-β-hydroxyphenethyl]amino]propyl]-2-thiophenecarboxylate and 1.05 g of methyl glyoxylate were heated to reflux in 20 ml of toluene for 1 hour on a water separator. The reaction mixture was diluted with ethyl acetate and washed with water. The ethyl acetate solutions were dried and evaporated in vacuo. Chromatography of the residue on silica gel gave 1.5 g of methyl(2RS,5R)-3-[3-(5-carbomethoxy-2-thienyl)propyl]-5-phenyl-2-oxazolidinecarboxylate, [α]D =-12° (0.1% in dioxan); ε278 =12300, ε255 =9300.

reactant | methyl 5-[3-[[(R)-β-hydroxyphenethyl]amino]propyl]-2-thiophenecarboxylate | 1.91 g | O[C@@H](CNCCCC1=CC=C(S1)C(=O)OC)C1=CC=CC=C1 | C17H21NO3S
reactant | methyl glyoxylate | 1.05 g | C(C=O)(=O)OC | C3H4O3
reactant | water | O | H2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl(2RS,5R)-3-[3-(5-carbomethoxy-2-thienyl)propyl]-5-phenyl-2-oxazolidinecarboxylate | 1.5 g | C(=O)(OC)C1=CC=C(S1)CCCN1C(O[C@@H](C1)C1=CC=CC=C1)C(=O)OC | C20H23NO5S
